US06008362
2-(4-Chloro-1-phenyl-butylidene)-hydrazinecarbothioamide
Thiosemicarbazide (9.11 g, 0.1 mol) was added under nitrogen to a solution of 4-chlorobutyrophenone (16 mL, 0.1 mol) in 350 mL of methanol plus 27 mL of 1 N HCl plus 25 mL of water. After approximately 30 minutes of stirring at room temperature, all of the solid had dissolved. The reaction was then stirred at room temperature for 24 hours (overnight). The solid that had formed was collected by filtration and dried under high vacuum to give 17.41 g (68%) of the title compound as a white solid, mp 128-130° C.

reactant | Thiosemicarbazide | 0.1 mol, 9.11 g | NNC(=S)N | CH5N3S
reactant | 4-chlorobutyrophenone | 0.1 mol, 16 mL | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
solvent | methanol | 350 mL | CO | CH4O
solvent | HCl | 1 N, 27 mL | Cl | ClH
solvent | water | 25 mL | O | H2O
product | 2-(4-Chloro-1-phenyl-butylidene)-hydrazinecarbothioamide | 17.41 g, 68% | ClCCCC(C1=CC=CC=C1)=NNC(N)=S | C11H14ClN3S
